US07989454B2
4-(2-(2-Carboxy-ethyl)-3-{6-[3′-fluoro-5-(piperazine-1-carbonyl)-biphenyl-3-yloxy]-hexyl}-phenoxy)-butyric acid
5-{6-[2-(2-Ethoxycarbonyl-ethyl)-3-(3-ethoxycarbonyl-propoxy)-phenyl]-hexyloxy}-3′-fluoro-biphenyl-3-carboxylic acid (150 mg), piperazine-1-carboxylic acid tert-butyl ester (54 mg), PyBroP (130 mg), diisopropylethylamine (85 □l) and dichloromethane (3 mL) were combined together and stirred at room temperature overnight. The reaction mixture was diluted with ethyl acetate and washed with water and brine. The organic extract was dried over anhydrous sodium sulfate and concentrated to dryness. The total amount of the product obtained from the previous step was dissolved in ethanol (2 mL) and 10 M NaOH solution was added (3 eq.). The resulting reaction mixture was stirred at room temperature for 5 h. Then it was neutralized with 3 N HCl and extracted into ethyl acetate. The organic extract was dried over anhydrous sodium sulfate, concentrated to dryness, redissolved in a mixture of TFA and dichloromethane (1:1, 2 mL) and stirred at room temperature for 3 h. The solvents were removed under reduced pressure and the title compound was purified on reverse-phase HPLC.

reactant | 5-{6-[2-(2-Ethoxycarbonyl-ethyl)-3-(3-ethoxycarbonyl-propoxy)-phenyl]-hexyloxy}-3′-fluoro-biphenyl-3-carboxylic acid | 150 mg | C(C)OC(=O)CCC1=C(C=CC=C1OCCCC(=O)OCC)CCCCCCOC=1C=C(C=C(C1)C1=CC(=CC=C1)F)C(=O)O | C36H43FO8
reactant | piperazine-1-carboxylic acid tert-butyl ester | 54 mg | C(C)(C)(C)OC(=O)N1CCNCC1 | C9H18N2O2
reactant | PyBroP | 130 mg | C1CCN(C1)[P+](N2CCCC2)(N3CCCC3)Br.F[P-](F)(F)(F)(F)F
reactant | diisopropylethylamine | C(C)(C)N(CC)C(C)C | C8H19N
reactant | NaOH | 10 M | [OH-].[Na+]
reactant | HCl | 3 N | Cl | ClH
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | ethanol | 2 mL | C(C)O | C2H6O
solvent | dichloromethane | 3 mL | ClCCl | CH2Cl2
product | 4-(2-(2-Carboxy-ethyl)-3-{6-[3′-fluoro-5-(piperazine-1-carbonyl)-biphenyl-3-yloxy]-hexyl}-phenoxy)-butyric acid | C(=O)(O)CCC1=C(OCCCC(=O)O)C=CC=C1CCCCCCOC=1C=C(C=C(C1)C(=O)N1CCNCC1)C1=CC(=CC=C1)F | C36H43FN2O7
